US07868177B2
A 200 ml round bottom flask, under nitrogen, was charged with N-(4-methoxyphenyl)-4-methyl-1-phenyl-4,5-dihydro-1H-pyrazol-3-amine (0.85 g, 3.02 mmol) and DCM (60.42 ml, 0.05 M). To this solution was added slowly manganese dioxide (0.58 g, 6.65 mmol). Reaction stirred at RT under a nitrogen atmosphere for 16 h. The reaction mixture was diluted with DCM and filtered over Celite®. The filtrate was concentrated to afford brown oil, which was purified by ISCO silica gel chromatography (20-40% EtOAc/hexanes) to afford N-(4-methoxyphenyl)-4-methyl-1-phenyl-1H-pyrazol-3-amine. MS m/z=280.2 [M+H]+. Calc'd for C17H17N3O: 279.34.

reactant | N-(4-methoxyphenyl)-4-methyl-1-phenyl-4,5-dihydro-1H-pyrazol-3-amine | 3.02 mmol, 0.85 g | COC1=CC=C(C=C1)NC1=NN(CC1C)C1=CC=CC=C1 | C17H19N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 6.65 mmol, 0.58 g | [O-2].[O-2].[Mn+4]
solvent | DCM | 0.05 M, 60.42 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxyphenyl)-4-methyl-1-phenyl-1H-pyrazol-3-amine | COC1=CC=C(C=C1)NC1=NN(C=C1C)C1=CC=CC=C1 | C17H17N3O
